US06960586B2
Production of methyl 3-bromomethyl-6-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-2-naphthoate
Methyl 6-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-3-methyl-2-naphthoate (5.93 g) was suspended in carbon tetrachloride (150 ml) and N-bromosuccinimide (2.01 g) and 2,2′-azobisisobutyronitrile (0.17 g) were added. The reaction mixture was heated under reflux for 4 hrs. and the solvent was concentrated. The residue was diluted with saturated aqueous sodium hydrogen carbonate and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give a crude title compound (6.70 g) as a brown amorphous solid.

reactant | Methyl 6-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-3-methyl-2-naphthoate | 5.93 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=C(C(=CC2=CC1)C(=O)OC)C | C39H36N2O3
reactant | N-bromosuccinimide | 2.01 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 0.17 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 3-bromomethyl-6-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-2-naphthoate | 6.70 g | BrCC=1C(=CC2=CC=C(C=C2C1)C(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)C(=O)OC | C39H35BrN2O3
